US06399779B1
This reaction can also be conveniently carried out without removal of excess bis(pinacolato)diboron when this reagent is used in near stoichiometric molar ratio for the synthesis of the arylboronic acid ester. Thus, reacting 267 mgs (1.05 mmol) of bis(pinacolato)diboron, 25 mg of PdCl2(dppf).CH2Cl2, 416 mg (3.0 mmol) K2CO3 and 234 mg (1.0 mmol) 4-iodoanisole in 5 ml methanol at 25° C. for 16 h gave (by gc analysis) a 94% yield of the required ester (with 1.4% dimer) which was converted to the biphenyl by addition of 1-iodo-3,4-methylenedioxybenzene (excess, 315 mg, 1.27 mmol) and warming the mixture to 60° C. for 12 h. The ratio of 4,4′-dimethoxybiphenyl:4,4′-30 bis(1,3-benzodioxole) to asymmetric biaryl was 1:1.2:19. Some 4-methoxybiphenyl is also formed in the coupling reaction, presumably from the coupling of phenyl groups stemming from the catalyst phosphine ligand and the 4-methoxyphenyl from the boronic acid ester.

reactant | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | 1-iodo-3,4-methylenedioxybenzene | 1.27 mmol, 315 mg | IC1=CC2=C(C=C1)OCO2 | C7H5IO2
reactant | 4,4′-dimethoxybiphenyl | COC1=CC=C(C=C1)C1=CC=C(C=C1)OC | C14H14O2
product | 4-methoxybiphenyl | COC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12O
